US07256198B2
Step 5: 3.3-Dimethyl-8-(pyrrolidin-1-ylsulfonyl)-3,4-dihydropyrimido[1,2-a]indol-10(2H)-one
To 3′,3′-dimethyl-8′-(pyrrolidin-1-ylsulfonyl)-3′,4′-dihydro-2′H-spiro[1,3-dioxane-2,10′-pyrimido[1,2-a]indole] (0.231 g, 0.570 mmol) was added methane sulfonic acid (6 mL) and the mixture was heated at 60° C. for 3 hr. The reaction was cooled to room temperature, poured onto ice, and basified with concentrated NH4O H to pH 11 keeping the reaction temperature below 5° C. The resulting orange solid was filtered, dissolved in CH2Cl2 and EtOAc, dried over Na2SO4, filtered, and concentrated to give the title compound as a bright yellow solid (0.155 g, 78% yield). Anal: Calc'd for C17H21N3O3S: C, 58.77; H, 6.09; N, 12.09. Found: C, 58.90; H, 6.20; N, 11.75. NMR (300 Mz, DMSO-d6): consistent. MS: (ES−) 346 [M−H]. MS: (ES+) 348 [M+H]. m.p.: 200-201° C.

reactant | 3′,3′-dimethyl-8′-(pyrrolidin-1-ylsulfonyl)-3′,4′-dihydro-2′H-spiro[1,3-dioxane-2,10′-pyrimido[1,2-a]indole] | 0.570 mmol, 0.231 g | CC1(CN=C2N(C=3C=CC(=CC3C23OCCCO3)S(=O)(=O)N3CCCC3)C1)C | C20H27N3O4S
reactant | methane sulfonic acid | 6 mL | CS(=O)(=O)O | CH4O3S
product | 3.3-Dimethyl-8-(pyrrolidin-1-ylsulfonyl)-3,4-dihydropyrimido[1,2-a]indol-10(2H)-one | 0.155 g, 78% yield | CC1(CN=C2N(C=3C=CC(=CC3C2=O)S(=O)(=O)N2CCCC2)C1)C | C17H21N3O3S
